US06677349B1
Triethylamine (1.18 mL, 8.5 mmol) was added to a mixture of 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 7.1 mmol) and chloroform (200 mL). The resulting solution was chilled in an acetone/ice bath for 10 minutes. Benzenesulfonyl chloride (0.90 mL, 8.5 mmol) was slowly added over a period of 5 minutes. After 45 minutes 0.2 equivalents of triethylamine was added. After 6 hours the reaction mixture was washed with brine (2×250 mL) and with water (1×100 mL), dried over magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from N,N-dimethylformamide. The recrystallized material and the filtrate were both slurried with methanol. The resulting solids were isolated by filtration, combined, and then dried in an Abderhalden drying apparatus overnight to provide 0.80 g of N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzenesulfonamide as a white solid, m.p. 180.6-182.0° C. Analysis: Calculated for C22H25N5O2S.0.25 H2O: %C, 61.73; %H, 6.00; %N, 16.36; Found: %C, 61.79; %H, 6.04; %N, 16.43.

reactant | Triethylamine | 8.5 mmol, 1.18 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.1 mmol, 2.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | Benzenesulfonyl chloride | 8.5 mmol, 0.90 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 0.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzenesulfonamide | 0.80 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=CC=C2)CC | C22H25N5O2S
